US05635477
Synthesis of 4-Chloro-3-aminomethylbenzoic Acid. HCl
The title compound was prepared by modification of procedures previously reported in the literature (Felder et al (1965) Helv. Chim. Acta, 48: 259). To a solution of 4-chlorobenzoic acid (15.7 g, 100 mmol) in 150 ml of concentrated sulfuric acid was added N-hydroxymethyl dichloroacetamide (23.7 g, 150 mmol) in portions. The reaction mixture was stirred at room temperature for 2 days, poured onto 375 g of ice, stirred for 1 hour, the solid was collected by filtration, and washed with H2O. The moist solid was dissolved in 5% sodium bicarbonate solution, filtered, and acidified to pH 1 with concentrated HCl. The solid was collected by filtration, washed with H2O, and air-dryed overnight to give 4-chloro-3-dichloroacetylaminomethylbenzoic acid (26.2 g, 89%) as a white powder.

reactant | 4-chlorobenzoic acid | 100 mmol, 15.7 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | N-hydroxymethyl dichloroacetamide | 150 mmol, 23.7 g | OCNC(C(Cl)Cl)=O | C3H5Cl2NO2
solvent | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 4-chloro-3-dichloroacetylaminomethylbenzoic acid | 26.2 g, 89% | ClC1=C(C=C(C(=O)O)C=C1)CNC(C(Cl)Cl)=O | C10H8Cl3NO3
